US04650804
To a suspension of 4H-quinolizin-4-one-3-carboxylic acid (2.27 g) in dry N,N-dimethylformamide (22.7 ml) was added 1,1'-carbonyldiimidazole (2.92 g). The resulting suspension was heated to 100° C. and kept for 30 minutes. After cooling to room temperature the resulting solution was treated with dry ammonia and stirred for 20 minutes. The crystals separated was collected by filtration and washed with water to give 4H-quinolizin-4-one-3-carboxamide (1.94 g).

reactant | 4H-quinolizin-4-one-3-carboxylic acid | 2.27 g | C=1C=C(C(N2C=CC=CC12)=O)C(=O)O | C10H7NO3
reactant | 1,1'-carbonyldiimidazole | 2.92 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonia | N | H3N
solvent | N,N-dimethylformamide | 22.7 ml | CN(C=O)C | C3H7NO
product | 4H-quinolizin-4-one-3-carboxamide | 1.94 g | C=1C=C(C(N2C=CC=CC12)=O)C(=O)N | C10H8N2O2
